US08580794B2
3-nitro-4-(piperidin-4-ylmethoxy)benzenesulfonamide
To a solution of tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate (0.300 g) in tetrahydrofuran (5 mL) was added sodium hydride (0.223 g). After stirring for 15 minutes, 4-fluoro-3-nitrobenzenesulfonamide (0.276 g) was added and reaction stirred at room temperature. After 1 hour the reaction was partitioned between water (25 mL) and dichloromethane (50 mL) and the reaction quenched with 1N aqueous HCl (5.57 mL). The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated. Treatment with HCl (4.0M in dioxane, 2 mL) and methanol (2 mL) for 1 hour, followed by concentration, trituration with dichloromethane and filtration gave the title compound.

reactant | tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate | 0.300 g | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | sodium hydride | 0.223 g | [H-].[Na+]
reactant | 4-fluoro-3-nitrobenzenesulfonamide | 0.276 g | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-nitro-4-(piperidin-4-ylmethoxy)benzenesulfonamide | [N+](=O)([O-])C=1C=C(C=CC1OCC1CCNCC1)S(=O)(=O)N | C12H17N3O5S
